US04786310
A solution of 5-amino-3-isopropyl-6-fluoro-2(3H)-benzothiazolone (5 g) in toluene (70 ml) was added to 1M phosgene/toluene, and the resultant solution was stirred at 90° to 95° C. for 1 hour, followed by concentration under reduced pressure. The residue was crystallized from n-hexane to give 6-fluoro-3-isopropyl-2(3H)-benzothiazolon-5-yl isocyanate (5.2 g). m.p., 149°-150° C.

reactant | 5-amino-3-isopropyl-6-fluoro-2(3H)-benzothiazolone | 5 g | NC=1C(=CC2=C(N(C(S2)=O)C(C)C)C1)F | C10H11FN2OS
reactant | phosgene toluene | 1M | C(=O)(Cl)Cl.C1(=CC=CC=C1)C
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 6-fluoro-3-isopropyl-2(3H)-benzothiazolon-5-yl isocyanate | 5.2 g | FC1=CC2=C(N(C(S2)=O)C(C)C)C=C1N=C=O | C11H9FN2O2S
